US07153963B2
The mixture of 30 mg of (2S)-2-(t-butoxycarbonylamino)-3-[4-(dihydroxyboranyl)phenyl]propionic acid, 25 mg of 1-methyluracil, 27 mg of copper acetate(II), 40 mg of triethylamine and 4 ml of dichloromethane were stirred overnight. The reaction solvent was diluted by ethanol and filtered by Celite filtration. The residual material obtained by concentrating the filtrate was diluted by 1N sodium hydrate and washed with ethyl acetate. After making the water layer acidic by hydrochloric acid, the solution was extracted with ethyl acetate, washed with saturated NaCl aqueous solution, dried with magnesium sulfate and the solvent was removed to obtain a crude material of (2S)-2-(t-butoxycarbonylamino)-3-[4-(1-methyluracil-3-yl)phenyl]propionic acid. This crude material was diluted by 5 ml of ethanol and hexane solution including 2M trimethylsilyldiazomethane was added to give methyl ester. The reaction solvent was concentrated and purified by silica gel chromatography (ethyl acetate-ethanol) to obtain the title compound (7 mg).

reactant | (2S)-2-(t-butoxycarbonylamino)-3-[4-(dihydroxyboranyl)phenyl]propionic acid | 30 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)B(O)O | C14H20BNO6
reactant | 1-methyluracil | 25 mg | CN1C(=O)NC(=O)C=C1 | C5H6N2O2
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (2S)-2-(t-butoxycarbonylamino)-3-[4-(1-methyluracil-3-yl)phenyl]propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)N1C(N(C=CC1=O)C)=O | C19H23N3O6
